US09302991B2
<Step-2>: 2-isobutyramido-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide (Example-398)
The title compound is prepared from 2-amino-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide (17 mg, 0.05 mmol, Step-1) and isobutyryl chloride (17 mg, 0.16 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | 2-amino-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide | 0.05 mmol, 17 mg | NC1=NC=CC(=N1)C(=O)NCC=1C=NC(=CC1)OCC(F)(F)F | C13H12F3N5O2
reactant | isobutyryl chloride | 0.16 mmol, 17 mg | C(C(C)C)(=O)Cl | C4H7ClO
product | 2-isobutyramido-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide | C(C(C)C)(=O)NC1=NC=CC(=N1)C(=O)NCC=1C=NC(=CC1)OCC(F)(F)F | C17H18F3N5O3
